US07199147B2
A 6N aqueous hydrochloric acid solution (0.355 ml, 2.13 mmol) was added dropwise to a solution of N-[3-methoxy-4-(methoxymethoxy)-2-methylphenyl]-2,2-dimethylpropanamide (300 mg, 1.07 mmol) in methanol (3 ml) at room temperature. After 18 hours, the reaction solution was poured into water (30 ml) and extracted with ethyl acetate (30 ml×2), and the ethyl acetate layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The ethyl acetate layer dried was concentrated under reduced pressure, and to a solution of the resulting residue in pyridine (3 ml) was added methanesulfonyl chloride (0.091 ml, 1.17 mmol) at 0° C. The resulting mixture was heated to 60° C. After 2.5 hours, the reaction solution was concentrated under reduced pressure and the resulting residue was poured into water (50 ml) and extracted with ethyl acetate (30 ml×2). The extract solution was dried over anhydrous magnesium sulfate. The extract solution dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 4-[(2,2-dimethylpropanoyl)amino]-2-methoxy-3-methylphenyl methanesulfonate (338 mg, 100%).

reactant | hydrochloric acid | 2.13 mmol, 6N, 0.355 ml | Cl | ClH
reactant | N-[3-methoxy-4-(methoxymethoxy)-2-methylphenyl]-2,2-dimethylpropanamide | 1.07 mmol, 300 mg | COC=1C(=C(C=CC1OCOC)NC(C(C)(C)C)=O)C | C15H23NO4
reactant | water | 30 ml | O | H2O
reactant | methanesulfonyl chloride | 1.17 mmol, 0.091 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | 3 ml | CO | CH4O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4-[(2,2-dimethylpropanoyl)amino]-2-methoxy-3-methylphenyl methanesulfonate | 338 mg, 100% | CS(=O)(=O)OC1=C(C(=C(C=C1)NC(C(C)(C)C)=O)C)OC | C14H21NO5S
